Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dysuria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ ___ speaking female with history of recurrent UTIs 
presenting with dysuria. Pt had dysuria ___. She was originally 
prescribed ciprofloxacin but grew out E coli resistant so was 
switched to macrobid. She had relief with macrobid for the 10 
day course however developed worsening symptoms 2 days after 
cessation of abx. For the past 2 days she has had dysuria, 
polyuria, and urinary urgency. She denies fever but thinks 
possibly had chills today. Reports anorexia, denies nausea and 
vomiting. She says when she gets the pain it briefly shoots up 
her back but denies back pain at rest. She felt lightheaded 
today when going to the bathroom and felt unsafe at home because 
of this. She does have a home aide who comes everyday but is not 
there all the time. Her husband is in rehab.  
In the ED initial vitals were: 98.9 92 170/82 18 94% RA  
- Labs were significant for normal CBC/diff, unremarkable 
electrolytes, grossly positive UA.  
- Patient was given ceftriaxone and 500cc NS and started on O2.  

On the floor, patient reports that suprapubic pain is somewhat 
improved.  

 
Past Medical History:
# HTN  
# Recurrent UTIs  
# Chronic urinary incontinence  
# Depression  
# Osteoporosis, hx of hip fracture  

 
Social History:
___
Family History:
non-contributory  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry MM. dentures in place  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: kyphotic, decreased lung sounds on left posteriorly (but 
normal anteriorly), no crackles or wheezes appreciated  
ABDOMEN: nondistended, +BS, mild suprapubic tenderness without 
rebound or guarding. No CVA tenderness.  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused  

DISCHARGE PHYSICAL EXAM:
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM    
Lungs: Diminished throughout, but clear bilaterally, no wheezes, 
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, II/VI mid-systolic 
murmur, no rubs or gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  

 
Pertinent Results:
ADMISSION LABS:
___ 09:20PM BLOOD WBC-9.5# RBC-4.75 Hgb-15.2 Hct-46.5 
MCV-98 MCH-32.1* MCHC-32.8 RDW-13.6 Plt ___
___ 09:20PM BLOOD ___ PTT-29.3 ___
___ 09:20PM BLOOD Glucose-126* UreaN-17 Creat-0.7 Na-141 
K-4.4 Cl-104 HCO3-27 AnGap-14

URINE:
___ 09:53PM URINE Color-YELLOW Appear-Cloudy Sp ___
___ 09:53PM URINE Blood-LG Nitrite-POS Protein->600 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM 
___ 09:53PM URINE RBC->182* WBC-116* Bacteri-MANY 
Yeast-NONE Epi-2

MICROBIOLOGY:
___ 9:53 pm URINE      SOURCE: ___. 
   URINE CULTURE (Pending): 

___ 9:20 pm BLOOD CULTURE      #1 SOURCE: VENIPUNCTURE. 
   Blood Culture, Routine (Pending): 

IMAGING:
___ GU US
IMPRESSION: 
1. Right renal cyst. A parapelvic cyst is likely present in the 
left kidney but is difficult to completely imaged. 
2. No hydronephrosis and no perinephric fluid collection. 
3. Hypertrophic bladder wall with bladder diverticulum. 

DISCHARGE LABS:
___ 07:45AM BLOOD WBC-8.1 RBC-4.62 Hgb-14.1 Hct-44.5 MCV-96 
MCH-30.5 MCHC-31.7 RDW-13.3 Plt ___
___ 07:45AM BLOOD Glucose-99 UreaN-13 Creat-0.5 Na-143 
K-4.0 Cl-106 HCO3-26 AnGap-15
___ 07:45AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.2

 
Brief Hospital Course:
This is an ___ F with history of frequent UTIs presenting with 
dysuria, urinary frequency and dizziness and found to have a 
recurrent UTI.

# UTI: Patient with history of UTIs going back to childhood, 
recently completed 10 days of macrobid for E. coli UTI. She 
presented with recurrent symptoms of dysuria, frequency and 
suprapubic pain that started 2 days after finishing her 
antibiotics. She has been afebrile and had no leukocytosis. 
Hematuria was noted in first void after arrival to the floor. 
Symptoms improved and hematuria resolved with ceftriaxone. She 
was switched to PO cefpodoxime to complete her course of 
antibiotics at home.  
  
# Dizziness/unsteadiness: This was most likely secondary to 
dehydration in setting of infection. She was seen by physical 
therapy, who cleared her for discharge and recommended home ___.

# Hypoxia: The patient was noted to have O2 sat in the mid to 
low ___. She has no dyspnea, cough or chest discomfort. On 
review of records, she had a documented O2 sat in that range in 
clinic in ___. Most likely restrictive secondary to 
significant kyphosis. 

TRANSITIONAL ISSUES
# Cefpodoxime 200mg BID ___ - ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 240 mg PO DAILY 
2. Alendronate Sodium 70 mg PO Frequency is Unknown 
3. Ibuprofen 400 mg PO Q6H:PRN pain 
4. Calcium Carbonate 500 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Acetaminophen 650 mg PO Q8H:PRN pain 
5. Alendronate Sodium 70 mg PO WEEKLY 
6. Ibuprofen 400 mg PO Q6H:PRN pain 
7. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 8 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*16 Tablet Refills:*0
8. Calcium Carbonate 500 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because your urinary tract 
infection came back a few days after your finished your 
antibiotics. We gave you a different antibiotic and you quickly 
got better. We had our physical therapists work with you and 
they felt it was ok for you to return home. You will complete 
another 10 day course of antibiotics. We provided the filled 
prescription before you left. You should take your first pill 
tomorrow (___) in the morning. Your last day of treatment will 
be ___. Take care.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___